US04607006
22-2. Preparation of 3-(4-Methoxyphenyl)-5-(4-nitrophenyl)-1-phenyl-2-pyrazoline
14.2 g of 4'-methoxy-4-nitrochalcone was reacted with 5.4 g of phenylhydrazine in 100 ml of ethanol in the presence of 5 ml of hydrochloric acid by refluxing while heating for 6 hours. After neutralizing the reaction mixture with 50 ml of 1N NaOH, 400 ml of water was added thereto. Decantation-water washing was repeated three times. Crystals formed were recrystallized from 200 ml of acetone to obtain 14.7 g of the desired compound. m.p. 168°-173° C.

reactant | 4'-methoxy-4-nitrochalcone | 14.2 g | COC1=CC=C(C(C=CC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C16H13NO4
reactant | phenylhydrazine | 5.4 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 400 ml | O | H2O
product | 3-(4-Methoxyphenyl)-5-(4-nitrophenyl)-1-phenyl-2-pyrazoline | 14.7 g | COC1=CC=C(C=C1)C1=NN(C(C1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C22H19N3O3
